US07192943B2
To a suspension of phenyl N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (949 mg) and di-tert-butyl 7-amino-6,8-dioxo-2,5,9,12-tetraazatridecanedioate (968 mg) in dehydrated chloroform (4 ml) was added N-ethyldiisopropylamine (0.342 ml), and the mixture was stirred under reflux for 5 hours. To the reaction mixture was added diethyl ether. The resulting precipitate was collected by filtration and dried in vacuo to give di-tert-butyl 7-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-6,8-dioxo-2,5,9,12-tetraazatridecanedioate (1.38 g) as a solid.

reactant | phenyl N-[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 949 mg | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C30H26N4O2
reactant | di-tert-butyl 7-amino-6,8-dioxo-2,5,9,12-tetraazatridecanedioate | 968 mg | NC(C(NCCNC(=O)OC(C)(C)C)=O)C(NCCNC(=O)OC(C)(C)C)=O | C17H33N5O6
reactant | N-ethyldiisopropylamine | 0.342 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
product | di-tert-butyl 7-[({[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-6,8-dioxo-2,5,9,12-tetraazatridecanedioate | 1.38 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC(C(NCCNC(=O)OC(C)(C)C)=O)C(NCCNC(=O)OC(C)(C)C)=O | C41H53N9O7
